US07405215B2
b.) 3-(1H-Indol-3-yl)-benzo[d]isothiazole 1,1-dioxide
Indole (117 mg, 1 mmol) and 3-chloro-benzo[d]isothiazole 1,1-dioxide (201 mg, 1 mmol) were treated 5 mL of 1,2-dichloroethane followed by AlCl3 (160 mg, 1.2 mmol). The reaction mixture was heated to 65° C. overnight, then cooled and quenched with water (1 mL). The resulting solid was filtered, washed with water, and dried to give 0.3 grams of the sub-title compound. MS: ESI (negative): 281 (M−H).

reactant | Indole | 1 mmol, 117 mg | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-chloro-benzo[d]isothiazole 1,1-dioxide | 1 mmol, 201 mg | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | AlCl3 | 1.2 mmol, 160 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 3-(1H-Indol-3-yl)-benzo[d]isothiazole 1,1-dioxide | 0.3 grams | N1C=C(C2=CC=CC=C12)C1=NS(C2=C1C=CC=C2)(=O)=O | C15H10N2O2S
